US04792561
A solution of 3.0 g of 6-(imidazol-1-ylacetyl)-3,4-dihydrocarbostyril (the preparation of which is given in Example 3) in 120 ml of methanol was reacted with 1.2 g of sodium borohydride in the same manner as shown in Preparation 2, and the product similarly isolated to give 6-[1-hydroxy-2-(imidazol-1-yl)ethyl]-3,4-dihydrocarbostyril, m.p. 182°-184°

reactant | 6-(imidazol-1-ylacetyl)-3,4-dihydrocarbostyril | 3.0 g | N1(C=NC=C1)CC(=O)C=1C=C2CCC(NC2=CC1)=O | C14H13N3O2
reactant | sodium borohydride | 1.2 g | [BH4-].[Na+]
solvent | methanol | 120 ml | CO | CH4O
product | 6-[1-hydroxy-2-(imidazol-1-yl)ethyl]-3,4-dihydrocarbostyril | OC(CN1C=NC=C1)C=1C=C2CCC(NC2=CC1)=O | C14H15N3O2
